US04358597
A solution of 7.5 g (0.05 mole) of 1,3,4- thiadiazole-2,5-dithiol (DMTD) was stirred in 700 ml of anhydrous ether in a 3-necked round-bottom flask equipped with a thermometer, a reflux condenser, a dropping funnel, and a magnetic stirrer. The solution was maintained at below 25° C. by cooling while 5.9 ml (0.1 mole) of methyl isocyanate and 0.2 ml of triethylamine were added dropwise. The reaction mixture was stirred at 25° C. for 48 hours. The yellow-solid crystals were collected on a filter, washed with ether and dried. The product was 8.2 grams (62 mole % yield) m.p. 162° C., 2,5-bis(N-methylcarbamylthio)-1,3,4-thiadiazole.

reactant | 1,3,4- thiadiazole-2,5-dithiol | 0.05 mole, 7.5 g | S1C(=NN=C1S)S | C2H2N2S3
reactant | methyl isocyanate | 0.1 mole, 5.9 ml | CN=C=O | C2H3NO
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | ether | 700 ml | CCOCC | C4H10O
product | 2,5-bis(N-methylcarbamylthio)-1,3,4-thiadiazole | CNC(=O)SC=1SC(=NN1)SC(NC)=O | C6H8N4O2S3
